US08071591B2
To a solution of 3-Iodopyridine (13.0 g, 63.3 mmol) in THF (30 mL) was added i-PrMgCl (38.0 mL, 76.0 mmol) at 3-9° C. After stirring was continued at room temperature for 30 min, CuCN (567 mg, 6.33 mmol) was added to the solution at 2° C. After stirring was continued at 3° C. for 30 min, to the resulting solution were added (1R,4S)-4-hydroxycyclopent-2-enyl acetate (3.00 g, 21.1 mmol) in THF (30 mL). The whole mixture was stirred at the room temperature for 2 h, and diluted with saturated NH4Cl with vigorous stirring. The products were extracted with EtOAc three times, and the combined layers were dried over Na2SO4. After concentration under reduced pressure, the residue was purified by column chromatography (NH, Hexane/EtOAc=4/1) to yield (1S,4S)-4-(3-pyridyl)-2-cyclopenten-1-ol (1.88 g, 55%) as yellow oil.

reactant | 3-Iodopyridine | 63.3 mmol, 13.0 g | IC=1C=NC=CC1 | C5H4IN
reactant | i-PrMgCl | 76.0 mmol, 38.0 mL | C(C)(C)[Mg]Cl
reactant | CuCN | 6.33 mmol, 567 mg | C(#N)[Cu]
reactant | (1R,4S)-4-hydroxycyclopent-2-enyl acetate | 21.1 mmol, 3.00 g | C(C)(=O)O[C@H]1C=C[C@H](C1)O | C7H10O3
solvent | THF | 30 mL | C1CCOC1 | C4H8O
solvent | THF | 30 mL | C1CCOC1 | C4H8O
solvent | NH4Cl | [NH4+].[Cl-]
product | (1S,4S)-4-(3-pyridyl)-2-cyclopenten-1-ol | 1.88 g, 55% | N1=CC(=CC=C1)[C@@H]1C=C[C@H](C1)O | C10H11NO
